US07465726B2
To a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (10 g, 0.065 mol) in THF (300 mL) was added potassium tert-butoxide (9.15 g, 0.082 mol) at r.t. over 5 min. A slight exotherm was noticed and suspension was cooled with the aid of a water bath. Benzenesulfonyl chloride (10.5 mL, 0.082 mol) was then added drop-wise over a period of 10 min and the resulting suspension stirred for a further 3 h. Then water (20 mL) was added drop-wise and the solution was then stirred for 15 min. The solvent was evaporated under reduced pressure and the reaction mixture was eluted with ethyl acetate (1.2 l), washed with brine (2×100 mL), dried and concentrated. The resulting solid was triturated with ethyl acetate (50 mL) to afford 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 6.75 (1H, d), 7.55-7.625 (2H, t), 7.70 (1H, t), 7.82 (1H, d), 8.25 (1H, d) and 8.80 (1H, s).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.065 mol, 10 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | potassium tert-butoxide | 0.082 mol, 9.15 g | CC(C)([O-])C.[K+]
reactant | Benzenesulfonyl chloride | 0.082 mol, 10.5 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 20 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8ClN3O2S
